US04378357
A suspension of thiourea (19.0 g, 0.25 mole) in 150 ml of ethanol was heated under reflux until all of the thiourea had dissolved. Ethyl 2-bromo-isobutyrate (49.0 g, 0.25 mole) was then added over 10 minutes to the refluxing solution, after which time the solution was heated under reflux for six hours then allowed to stir at ambient temperature 36 hours. The solution was concentrated to dryness and the residue treated with water, then with aqueous NaHCO3 to adjust the pH to 7.0. The precipitated solid was collected by filtration, washed with water and dried to yield 5,5-dimethyl-2-iminothiazolidin-4-one: mp 252°-254° C.; 15.0 g (0.12 mole, 47%). Structure was confirmed by IR and NMR.

reactant | thiourea | 0.25 mole, 19.0 g | NC(=S)N | CH4N2S
reactant | Ethyl 2-bromo-isobutyrate | 0.25 mole, 49.0 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5,5-dimethyl-2-iminothiazolidin-4-one | CC1(C(NC(S1)=N)=O)C | C5H8N2OS
